US07507688B2
A solution of 17.4 ml of indene (0.1497 mol) in 150 ml of tetrahydrofuran (THF) was cooled to −60° C. and 61.8 ml of n-butyllithium (2M in hexane, 0.136 mol) were subsequently added while stirring. The mixture was allowed to warm to room temperature while stirring for 3 h and 5 g (0.0299 mol) of 2-(chloromethyl)-1-methyl-1H-imidazole hydrochloride was then added while stirring. The mixture was then stirred for a further 12 hours and hydrolyzed with 400 ml of dilute hydrochloric acid, the organic phase was separated off and the aqueous phase was extracted once with ethyl acetate. The aqueous phase was then neutralized with aqueous ammonia solution and extracted 3 times with 80 ml each time of dichloromethane. The organic phases were combined and dried over magnesium sulfate. After the magnesium sulfate had been filtered off, the solvent was distilled off. The crude product was purified by column chromatography using a mixture of hexane:ethyl acetate=1:1 and then the percentage of ethyl acetate slowly increased. Thus 4.82 g of 2-(1H-inden-3-ylmethyl)-1-methyl-1H-imidazole were obtained (77%).

reactant | indene | 0.1497 mol, 17.4 ml | C1C=CC2=CC=CC=C12 | C9H8
reactant | n-butyllithium | 0.136 mol, 2M, 61.8 ml | C(CCC)[Li]
reactant | 2-(chloromethyl)-1-methyl-1H-imidazole hydrochloride | 0.0299 mol, 5 g | Cl.ClCC=1N(C=CN1)C
reactant | hydrochloric acid | 400 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(1H-inden-3-ylmethyl)-1-methyl-1H-imidazole | 4.82 g | C1C=C(C2=CC=CC=C12)CC=1N(C=CN1)C | C14H14N2
